US05216134
4,4'-Bis(N,N-bis(t-butoxycarbonylmethyl)aminomethyl)-2,2'-bipyrimidine (53)
4,4'-Bis(chloromethyl)-2,2'-bipyrimidine (18.0 mg, 0.0793 mmoles), di-t-butyl iminodiacetate (76.3 mg, 0.31 mmoles), sodium carbonate (210 mg) and acetonitrile (3 ml) were refluxed overnight. The mixture was filtered, the solvent was evaporated and the product was purified by flash chromatography (silica, 0-5% methanol/chloroform).

reactant | 4,4'-Bis(chloromethyl)-2,2'-bipyrimidine | 0.0793 mmoles, 18.0 mg | ClCC1=NC(=NC=C1)C1=NC=CC(=N1)CCl | C10H8Cl2N4
reactant | di-t-butyl iminodiacetate | 0.31 mmoles, 76.3 mg | N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C12H23NO4
reactant | sodium carbonate | 210 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4,4'-Bis(N,N-bis(t-butoxycarbonylmethyl)aminomethyl)-2,2'-bipyrimidine | C(C)(C)(C)OC(=O)CN(CC(=O)OC(C)(C)C)CC1=NC(=NC=C1)C1=NC=CC(=N1)CN(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C34H52N6O8
